US08685964B2
Step 1: 1-[6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridin-2-yl]ethanone
Under argon, 0.52 g (2.1 mmol) of 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbonitrile in 100 ml of THF was stirred with 1.5 ml of methylmagnesium chloride (3 M, corresponds to 24 mmol) and a few spatula tips of CuBr-dimethyl sulphide complex at room temperature for 2 h. Dilute hydrochloric acid, citrate buffer and dil. aqueous sodium hydroxide solution to pH=9 and also aq. NaCl and ethyl acetate were added. The aqueous phase was extracted 3 times with ethyl acetate, and the combined organic phases were dried with MgSO4 and concentrated by evaporation. The residue was purified by chromatography on silica gel (petroleum ether/acetone).

reactant | 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbonitrile | 2.1 mmol, 0.52 g | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C#N | C14H9N5
reactant | methylmagnesium chloride | 24 mmol, 3 M, 1.5 ml | C[Mg]Cl
reactant | hydrochloric acid | Cl | ClH
reactant | citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridin-2-yl]ethanone | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C(C)=O | C15H12N4O
